US07968720B2
4-(4-Benzyloxy-phenyl)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic Acid 1-tert-butyl Ester 3-methyl Ester (B3)
To a sol. of 4-benzoxy-bromo-benzene (18.4 g, 70.0 mmol) in THF (450 mL) at −78° C. was added BuLi (1.6M in hexane, 50.0 mL, 80.0 mmol). The mixture was stirred for 30 min at −78° C., and ZnCl2 (1M in THF, 86 mL, 86 mmol) was added. The mixture was allowed to warm up to rt. A sol. of 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (WO 2004/002957; 19.5 g, 50.0 mmol) in THF (20 mL) and Pd(PPh3)4 (1.43 g, 1.23 mmol) were added. The mixture was quickly heated to 50° C., and stirred at this temperature for 40 min. Aq. sat. NH4Cl was added, and the mixture was extracted with EtOAc (3×). The combined org. extracts were washed with brine, dried over Na2SO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (EtOAc/heptane 1:9→2:8) yielded the title compound (20.8 g, 98%). LC-MS: tR=1.12 min; ES+: 424.25.

reactant | 4-benzoxy-bromo-benzene | 70.0 mmol, 18.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
reactant | BuLi | 80.0 mmol, 1.6M, 50.0 mL | [Li]CCCC
reactant | 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 50.0 mmol, 19.5 g | COC(=O)C=1CN(CCC1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C13H18F3NO7S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 450 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 86 mmol, 1M, 86 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 1.23 mmol, 1.43 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-Benzyloxy-phenyl)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic Acid 1-tert-butyl Ester 3-methyl Ester | 20.8 g, 98% | COC(=O)C=1CN(CCC1C1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H29NO5
